US08227500B2
2-(3-Cyano-4-phenylpyrrole-1-yl)isonicotinic acid ethyl ester
To a solution of 4-phenyl-1H-pyrrole-3-carbonitrile (0.1 g) in toluene (0.70 mL) were added 2-bromo-isonicotinic acid ethyl ester (0.19 g), potassium phosphate (0.31 g), (1R,2R)-(−)—N,N′-dimethylcyclohexane-1,2-diamine (0.02 g) and copper iodide (0.007 g) at room temperature, and this mixture was stirred at 110° C. for 24 hours. The insoluble material was removed by filtration through Celite, and this filtrate was concentrated. This obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=10/90−66/34) to give the title compound (0.066 g).

reactant | 4-phenyl-1H-pyrrole-3-carbonitrile | 0.1 g | C1(=CC=CC=C1)C=1C(=CNC1)C#N | C11H8N2
reactant | 2-bromo-isonicotinic acid ethyl ester | 0.19 g | C(C)OC(C1=CC(=NC=C1)Br)=O | C8H8BrNO2
reactant | potassium phosphate | 0.31 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (1R,2R)-(−)—N,N′-dimethylcyclohexane-1,2-diamine | 0.02 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | toluene | 0.70 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper iodide | 0.007 g | [Cu](I)I
product | 2-(3-Cyano-4-phenylpyrrole-1-yl)isonicotinic acid ethyl ester | 0.066 g | C(C)OC(C1=CC(=NC=C1)N1C=C(C(=C1)C1=CC=CC=C1)C#N)=O | C19H15N3O2
